Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: UROLOGY
 
Allergies: 
chemo drugs / Leucovorin / oxaliplatin
 
Attending: ___
 
Chief Complaint:
Urinary retention, hydronephrosis. 
 
Major Surgical or Invasive Procedure:
Attempted cystoscopy, interventional radiology suprapubic tube 
placement

 
History of Present Illness:
PI: Ms. ___ is a ___ yo F with a h/o metastatic colon CA and
urinary retention managed with CIC.  She reports that CIC was
initially challenging, but that she is now able to catheterize
without much difficulty (although she is only performing this
~1x/week when she has difficulty voiding).  Her colon CA is,
unfortunately, progressing on regorafenib.  Her most recent CT
a/p (___) shows multiple hepatic lesions, a 5 x 3.7 x 4.4 cm
pelvic mass that larger than her prior scan, a vulvar mass,
multiple mesenteric/retroperitoneal lesions, and mild/moderate R
hydro.  Cr 0.8 (___).  At her last Oncology visit, she was
unable to void, was straight cathed for 300 mL, and had a
"post-void residual" of 500 mL - which is more likely fluid
within the pelvis rather than a true residual as she had just
been catheterized prior to the scan.  Denies 
F/C/N/V/CP/SOB/flank
___.  She does report occasional dysuria, mild upper abd
pain, and mild lower back pain that is intermittent, dull in
nature, and ___ in intensity. 
 
Past Medical History:
metastatic colorectal cancer
 
Social History:
___
Family History:
None listed. 
 
Physical Exam:
well appearing
NAD
suprapubic tube in good position draining yellow urine
 
Pertinent Results:
___ 09:35AM   GLUCOSE-96 UREA N-14 CREAT-0.8 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-104 TOTAL CO2-26 ANION GAP-12
 
Brief Hospital Course:
Mrs. ___ was admited briefly to Dr. ___ after 
failed outpatient suprapubic tube placement, she was able to 
have suprapubic catheter placed by Interventional Radiology on 
the same day and then was discharged to home. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Celecoxib 200 mg oral BID 
2. LOPERamide 2 mg PO Q8H 
3. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
4. Stivarga (regorafenib) 160 mg oral ASDIR 
5. Amlodipine 5 mg PO DAILY 

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  5 mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ONE tablet(s) by mouth Q4hrs Disp #*40 Tablet 
Refills:*0
2. Amlodipine 5 mg PO DAILY 
3. Celecoxib 200 mg oral BID 
4. LOPERamide 2 mg PO Q8H 
5. Stivarga (regorafenib) 160 mg oral ASDIR 
6. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line flush 

7. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
colorectal cancer, urethral outlet obstruction, urinary 
retention

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.

 
Discharge Instructions:
*** DO NOT LET ANYONE BUT YOUR UROLOGIST/TEAM REMOVE THE 
SUPRAPUBIC TUBE/ CATHETER ***

-You will be discharged home with ___ services to further assist 
your transition. 

-Please also reference the instructions provided by nursing on 
SUPRAPUBIC TUBE (SPT) hygiene and waste elimination. 

For your safety and the safety of others; PLEASE DO NOT drive, 
operate dangerous machinery, or consume alcohol while taking 
narcotic pain medications. 

-Your SPT should be secured to the catheter secure on your thigh 
at ALL times until your follow up with the surgeon.

-Follow up with UROLOGY for wound check and post-op evaluation 
as directed.  SPT tubes must be exchanged regularly. 

-Wear Large SPT/Foley drainage bag for majority of time; leg-bag 
use is only for short-term when leaving the house, etc.

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ may want to coordinate your showers with your ___ provider 
and the planned dressing changes.

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision.

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is from 3gm to 4gm depending on your kidney function, note 
that narcotic pain medication also contains Tylenol 
(acetaminophen)

-Colace has been prescribed to avoid post-surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative

-Resume your home medications, except as noted.

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___